US05274097
1-[3-(4-Fluorophenyl)sulphonamido-propyl]-3-(2-methoxyphenoxy)-pyrrolidine hydrochloride
0.78 g (4.0 mmol) of 4-fluorophenylsulphonyl chloride in 15 ml of ether were added dropwise to a solution of 1.0 g (4.0 mmol) of 1-3-aminopropyl)-3-(2-methoxyphenoxy)-pyrrolidine in 20 ml of anhydrous ether at 0° C. After 2 hours at room temperature, the mixture was freed from solvent in vacuo and the remaining oily residue was brought to crystallization by trituration with diethyl ether/hexane. In this manner, 1.1 g (62%) of title compound were obtained as a slightly reddish, hygroscopic solid. It melted from 50° C.

reactant | 4-fluorophenylsulphonyl chloride | 4.0 mmol, 0.78 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 3-(2-methoxyphenoxy)-pyrrolidine | COC1=C(OC2CNCC2)C=CC=C1 | C11H15NO2
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-[3-(4-Fluorophenyl)sulphonamido-propyl]-3-(2-methoxyphenoxy)-pyrrolidine hydrochloride | 1.1 g, 62% | Cl.FC1=CC=C(C=C1)S(=O)(=O)NCCCN1CC(CC1)OC1=C(C=CC=C1)OC | InChI=1S/C20H25FN2O4S.ClH/c1-26-19-5-2-3-6-20(19)27-17-11-14-23(15-17)13-4-12-22-28(24,25)18-9-7-16(21)8-10-18;/h2-3,5-10,17,22H,4,11-15H2,1H3;1H
